US04262128
Reaction of diethyl 2-((3-cyclohexyl-3-oxopropyl)amino)nonanedioate (20.8 g) with cyanic acid using the general procedure of Example 2d afforded 5-(6-ethoxycarbonylhexyl)-1-(3-cyclohexyl-3-oxopropyl)hydantoin which was converted to the corresponding acid which crystallised from ether, m.p. 77.5°-78.5° C.

reactant | diethyl 2-((3-cyclohexyl-3-oxopropyl)amino)nonanedioate | 20.8 g | C1(CCCCC1)C(CCNC(C(=O)OCC)CCCCCCC(=O)OCC)=O | C22H39NO5
reactant | cyanic acid | N#CO | CHNO
product | 5-(6-ethoxycarbonylhexyl)-1-(3-cyclohexyl-3-oxopropyl)hydantoin | C(C)OC(=O)CCCCCCC1C(NC(N1CCC(=O)C1CCCCC1)=O)=O | C21H34N2O5
